US07326791B2
rac.-N-[(5-chloro-1H-benzimidazol-2-yl)thiophen-3-ylmethyl]4-(2,5-dihydropyrrol-1-ylcarbonyl)-3-methylbenzamide
Prepared analogously to Example 1g from 3-methyl-4-(2,5-dihydropyrrol-1-ylcarbonyl)benzoic acid, TBTU, diisopropylethylamine, and (5-chloro-1H-benzimidazol-2-yl)thiophen-3-ylmethylamine in tetrahydrofuran. Yield: 81%; Rf value: 0.49 (silica gel: dichloromethane/ethanol=9:1); C25H21ClN4O2 (476.986); mass spectrum: (M+H)+=477/479 (chlorine isotope).

reactant | 3-methyl-4-(2,5-dihydropyrrol-1-ylcarbonyl)benzoic acid | CC=1C=C(C(=O)O)C=CC1C(=O)N1CC=CC1 | C13H13NO3
reactant | TBTU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | diisopropylethylamine | C(C)(C)N(CC)C(C)C | C8H19N
reactant | (5-chloro-1H-benzimidazol-2-yl)thiophen-3-ylmethylamine | ClC1=CC2=C(NC(=N2)NCC2=CSC=C2)C=C1 | C12H10ClN3S
reactant | chlorine | ClCl | Cl2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | dichloromethane ethanol | ClCCl.C(C)O
product | rac.-N-[(5-chloro-1H-benzimidazol-2-yl)thiophen-3-ylmethyl]4-(2,5-dihydropyrrol-1-ylcarbonyl)-3-methylbenzamide | Yield: 81% | ClC1=CC2=C(NC(=N2)C(NC(C2=CC(=C(C=C2)C(=O)N2CC=CC2)C)=O)C2=CSC=C2)C=C1 | C25H21ClN4O2S
